* File: XOR2.pex.netlist.pex
* Created: Tue Dec  3 02:04:45 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2_GND! 1 6 9 13 16 20 26 28 32 36 37 39
r64 20 39 10
r65 18 32 0.00557249
r66 18 20 0.593278
r67 17 28 0.0411123
r68 16 32 0.0411123
r69 16 17 1.12113
r70 13 37 10
r71 11 28 0.00557249
r72 11 13 0.593278
r73 10 26 0.0378803
r74 9 28 0.0411123
r75 9 10 0.862705
r76 6 36 10
r77 4 26 0.00816527
r78 4 6 0.627599
r79 1 28 10
.ends

.subckt PM_XOR2_NET24 4 6 10 12 15 21 22 25 28 29 33 35 36 40
c86 40 0 1.12571e-19
c87 28 0 1.00466e-19
c88 12 0 2.91769e-19
c89 10 0 2.91769e-19
r90 34 40 4.5413
r91 33 34 25
r92 31 33 0.35266
r93 30 33 0.374033
r94 28 30 0.048303
r95 28 29 0.522763
r96 25 36 10
r97 23 29 0.0484805
r98 23 25 0.507607
r99 21 31 0.048303
r100 21 22 0.929001
r101 18 35 30
r102 15 18 0.367355
r103 15 35 10
r104 13 22 0.0486851
r105 13 15 0.329701
r106 6 12 36.8926
r107 5 40 3.83544
r108 5 6 50.3174
r109 4 40 3.83544
r110 3 10 26.6446
r111 3 4 70.3008
.ends

.subckt PM_XOR2_OUT 3 6 7 10 13 20 22
r46 19 20 10
r47 17 19 0.337645
r48 17 20 30
r49 13 19 0.715807
r50 10 13 1.7
r51 8 13 0.327515
r52 6 8 0.0493625
r53 6 7 0.249679
r54 3 22 10
r55 1 7 0.0485776
r56 1 3 0.506651
.ends

.subckt PM_XOR2_VDD! 1 6 15 20
c53 6 0 1.12571e-19
r54 10 20 30
r55 6 10 0.388606
r56 6 20 10
r57 4 15 0.00683217
r58 4 10 1.26394
r59 1 15 30
.ends

.subckt PM_XOR2_NET14 3 9 10 13 19 21
r32 17 21 30
r33 13 17 0.382378
r34 13 21 10
r35 11 17 0.674897
r36 9 11 0.0479506
r37 9 10 0.759725
r38 7 19 30
r39 3 7 0.388606
r40 3 19 10
r41 1 10 0.0479361
r42 1 7 0.685889
.ends

.subckt PM_XOR2_B 4 6 8 9 10 14 16 18 20 22 24 26 29 35
c65 24 0 1.54476e-19
c66 18 0 1.94277e-19
r67 32 35 4.21922
r68 29 32 25
r69 26 29 1.7
r70 15 24 36.8926
r71 15 16 109.14
r72 14 24 36.8926
r73 13 22 26.6446
r74 13 14 140.499
r75 9 16 3.46412
r76 9 10 200.859
r77 8 10 3.46412
r78 7 20 36.8926
r79 7 8 109.14
r80 6 20 36.8926
r81 5 35 3.83544
r82 5 6 50.3174
r83 4 35 3.83544
r84 3 18 26.6446
r85 3 4 70.3008
.ends

.subckt PM_XOR2_A 4 6 8 9 10 14 16 18 20 22 24 27 29 35
c83 27 0 1.00466e-19
c84 24 0 3.08952e-19
c85 22 0 1.54476e-19
c86 20 0 1.37293e-19
c87 18 0 3.3157e-19
r88 32 35 4.21922
r89 27 32 25
r90 27 29 1.7
r91 15 24 36.8926
r92 15 16 90.2843
r93 14 24 36.8926
r94 13 22 26.6446
r95 13 14 140.499
r96 9 16 3.46412
r97 9 10 102.172
r98 8 10 3.46412
r99 7 20 36.8926
r100 7 8 90.2843
r101 6 20 36.8926
r102 5 35 3.83544
r103 5 6 50.3174
r104 4 35 3.83544
r105 3 18 26.6446
r106 3 4 70.3008
.ends

